US09192589B2
Preparation of 3-(4′-Hydroxy-3′-methoxy-phenyl)-1-phenyl-prop-2-ene-1-one (CK-4)
3-methoxy-4-hydroxybenzaldehyde (20 gm, 0.132 mol) was added to the solution of acetophenone (20 gm, 0.125 mol) dissolved in acetic acid (20 mL) in a round bottom flask with constant stirring. Temperature of reaction was maintained below 15° C. with Occasional shaking for 200 hrs. Reaction mixture was poured in ice cold water and the product was extracted with chloroform. Chloroform extract was distilled under reduced pressure and the residue was chromatographed on SiO2 gel to obtain 1. m.p. 91° C.

reactant | 3-methoxy-4-hydroxybenzaldehyde | 0.132 mol, 20 gm | COC=1C=C(C=O)C=CC1O | C8H8O3
reactant | acetophenone | 0.125 mol, 20 gm | C(C)(=O)C1=CC=CC=C1 | C8H8O
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 3-(4′-Hydroxy-3′-methoxy-phenyl)-1-phenyl-prop-2-ene-1-one | OC1=C(C=C(C=C1)C=CC(=O)C1=CC=CC=C1)OC | C16H14O3
